US06858651B2
5 g (21.99 mmol) Methyl-(4-oxo-cyclohexyl)-carbamic acid tert-butyl ester and 12.68 g (28.59 mmol) (4-Carboxy-butyl)-triphenyl-phosphonium bromide were dispended in 50 ml DMF. In small portions 2.49 g (57.2 mmol, 55%) NaH were added and the slurry was diluted by adding 50 ml DMF. The mixture was stirred at RT over night, 10 ml AcOH were added and the solvent was evaporated under reduced pressure. The residue was dissolved in ether and water, and the inorganic layer was extracted with ether. The combined organic phases were dried over and the crude materil was purified by column chromatography with ETOAc/hexane to give 5.86 g (83%)5-[4-(tert-Butoxycarbonyl-methyl-amino)-cyclohexylidene]-pentanoic acid.

reactant | Methyl-(4-oxo-cyclohexyl)-carbamic acid tert-butyl ester | 21.99 mmol, 5 g | C(C)(C)(C)OC(N(C1CCC(CC1)=O)C)=O | C12H21NO3
reactant | (4-Carboxy-butyl)-triphenyl-phosphonium bromide | 28.59 mmol, 12.68 g | [Br-].C(=O)(O)CCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | NaH | 57.2 mmol, 2.49 g | [H-].[Na+]
reactant | AcOH | 10 ml | CC(=O)O | C2H4O2
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 5-[4-(tert-Butoxycarbonyl-methyl-amino)-cyclohexylidene]-pentanoic acid | 5.86 g, 83% | C(C)(C)(C)OC(=O)N(C1CCC(CC1)=CCCCC(=O)O)C | C17H29NO4
